US04292449
A mixture of potassium fluoride (5.80 g, 0.10 mol), diglyme (150 ml) and pentadecafluorooctanoyl fluoride (prepared by treating commercial perfluorooctanoic acid with sulfur tetrafluoride) (25.0 g, 0.06 mol) was stirred at 5° C. for 1 hour. Perfluoroallyl fluorosulfate (23.0 g, 0.10 mol) was added dropwise and the mixture was stirred at 5° C. for 4 hours, then at 25° C. for an additional 3 hours. The mixture was poured into water (1 l.), separated, and the lower layer was distilled from concentrated sulfuric acid to give perfluoro-3-(octyloxy)propene (27.1 g, 0.048 mol, 80%) bp 69°-70° C. (20 mm Hg) whose structure was confirmed by: λmax 5.59 (CF=CF2) and 8-9 μm (CF C-O); 19F NMR -71.8 (d J=25.1 Hz, each member d J=13.4 Hz, t J=13.4 Hz, d J=7.7 Hz) 2F, OCF2C=C, -81.6 (t J=10.0 Hz) 3F, CF3, -83.8 (m) 2F, CF2CF2O, -92.3 (d J=53.6 Hz, each member d J=39.9 Hz, t J=7.7 Hz) 1F, cis-CF2CF=CF, -105.5 (d J=117.8 Hz, each member d J=53.5 Hz, t J=25.1 Hz) 1F, trans-CF2CF=CF, -122.2 (m) 6F, CF2 , -122.9 (m) 2F, CF2, -125.7 (m) 2F, CF2, -126.5 (m) 2F, CF2, and -190.8 ppm (d J=117.8 Hz, each member d J=39.9 Hz, t 13.7 Hz, t 1.7 Hz) 1F, CF2CF=C.

reactant | potassium fluoride | 0.10 mol, 5.80 g | [F-].[K+]
reactant | diglyme | 150 ml | COCCOCCOC | C6H14O3
reactant | pentadecafluorooctanoyl fluoride | 0.06 mol, 25.0 g | FC(C(C(C(C(C(C(=O)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C8F16O
reactant | Perfluoroallyl fluorosulfate | 0.10 mol, 23.0 g | S(=O)(=O)(OC(C(=C(F)F)F)(F)F)F | C3F6O3S
solvent | water | 1 l | O | H2O
product | perfluoro-3-(octyloxy)propene | 0.048 mol, 27.1 g, 80% | FC(=C(C(OC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F | C11F22O
